US08791107B2
PREPARATION x78: tert-butyl (1-((R)-2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-yl)carbamate
The title compound was prepared in a manner similar to Example 2 using tert-butyl (1-((R)-2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-yl)carbamate (PREPARATION x77, 53 mg, 0.120 mmol), 1H-indol-4-ylboronic acid (38.8 mg, 0.241 mmol) and PdCl2(dppf) (4.41 mg, 0.006 mmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL) (19 mg, 30%). ESI-MS m/z [M+H]+ calc'd for C29H40N6O3, 521.32. found 521.5.

reactant | tert-butyl (1-((R)-2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-yl)carbamate | 0.120 mmol, 53 mg | ClC1=NC=2N3[C@H](CN(C2C=N1)CCC(C(C)(C)C)NC(OC(C)(C)C)=O)COCC3 | C21H34ClN5O3
reactant | 1H-indol-4-ylboronic acid | 0.241 mmol, 38.8 mg | N1C=CC2=C(C=CC=C12)B(O)O | C8H8BNO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL, 19 mg | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.006 mmol, 4.41 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl (1-((R)-2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-4,4-dimethylpentan-3-yl)carbamate | N1C=CC2=C(C=CC=C12)C1=NC=2N3[C@H](CN(C2C=N1)CCC(C(C)(C)C)NC(OC(C)(C)C)=O)COCC3 | C29H40N6O3
